US06362211B1
i) 4-(4b,5,6,7,8,9-Hexahydrofluoren-8a-yl)-1H-imidazole
9a-(1H-Imidazol-4-yl)-1,2,3,4,4a,9a-hexahydrofluoren-9-one (2.5 g) was mixed with di(ethylene glycol) (50 ml), hydrazine hydrate (7.2 ml) and KOH (9.5 g). The mixture was heated at 150° C. for 30 minutes and at 190° C. for 4 hours. After cooling to the ambient temperature the reaction mixture was diluted with water (150 ml) and extracted with CH2Cl2 (4×50 ml). The organic phase was washed with water (30 ml). The organic phase was mixed with water (200 ml) and the pH was adjusted to 1 with concentrated HCl solution. The layers were separated and the aqueous phase was washed with CH2Cl2 (2×30 ml). The aqueous phase was mixed with CH2Cl2 (150 ml) and the pH was adjusted to 11.5-13.5 with 48% NaOH solution. The phases were separated and the aqueous phase was extracted with CH2Cl2 (2×30 ml). The combined organic phases were washed with water (50 ml), dried over Na2SO4 and evaporated. The yield was 1.4 g.

reactant | 9a-(1H-Imidazol-4-yl)-1,2,3,4,4a,9a-hexahydrofluoren-9-one | 2.5 g | N1C=NC(=C1)C12C(C3=CC=CC=C3C2CCCC1)=O | C16H16N2O
reactant | hydrazine hydrate | 7.2 ml | O.NN
reactant | KOH | 9.5 g | [OH-].[K+]
solvent | water | 150 ml | O | H2O
product | 4-(4b,5,6,7,8,9-Hexahydrofluoren-8a-yl)-1H-imidazole | C1=CC=CC=2C3CCCCC3(CC12)C=1N=CNC1 | C16H18N2
